US20010027196A1
2-Amino-4-(4-cyano-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile
From 4-cyano-furan-2-carboxylic acid methyl ester with sodium hydride and acetonitrile in THF. Then treatment with sodium hydride, carbon disulphide and methyl iodide in DMSO. Then treatment with guanidine nitrate and triethylamine in DMF. EI-MS m/e (%): 257 (M+, 35), 256 ([M—H]+, 100).

reactant | 4-cyano-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC=C(C1)C#N | C7H5NO3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | guanidine nitrate | [N+](=O)(O)[O-].NC(=N)N
reactant | carbon disulphide | C(=S)=S | CS2
solvent | THF | C1CCOC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Amino-4-(4-cyano-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=C(C1)C#N)C#N)SC | C11H7N5OS
